US08258144B2
4-(4-(aminomethyl)piperidin-1-yl)-5-fluoro-N-(3,4,5-trimethoxyphenyl)pyrimidin-2-amine
A mixture of 2,4-dichloro-5-fluoropyrimidine (167 mg, 1.00 mmol), 4-N-Boc-aminomethyl piperidine (214 mg, 1.00 mmol) and triethylamine (0.300 mL, 2.15 mmol) in CH3CN (4 mL) was stirred at room temperature for 20 h. It was concentrated in vacuo. The residue was dissolved in nBuOH (6 mL). 2 mL of the nBuOH solution was taken, to which 3,4,5-trimethoxyaniline (91 mg, 0.50 mmol) was added. The solution was stirred at 116° C. for 20 h. nBuOH was removed in vacuo. The residue was dissolved in TFA (2 mL). After being stirred at room temperature for 2 h, TFA was removed in vacuo. The residue was purified by HPLC to give the titled compound (42 mg). MS 392.5 (M+H); UV 223.8, 257.8 nm.

reactant | 2,4-dichloro-5-fluoropyrimidine | 1.00 mmol, 167 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | triethylamine | 2.15 mmol, 0.300 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxyaniline | 0.50 mmol, 91 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | nBuOH | C(CCC)O | C4H10O
reactant | CH3CN | 4 mL | CC#N | C2H3N
product | 4-(4-(aminomethyl)piperidin-1-yl)-5-fluoro-N-(3,4,5-trimethoxyphenyl)pyrimidin-2-amine | 42 mg | NCC1CCN(CC1)C1=NC(=NC=C1F)NC1=CC(=C(C(=C1)OC)OC)OC | C19H26FN5O3
